* Z:\mnt\design.r\spice\examples\3061.asc
V1 IN 0 2.2
R1 OUT N001 118K
R2 N001 0 59K
C1 N002 0 10n
C2 OUT 0 10µ Rser=3m
Rload OUT 0 18
XU1 N002 N001 OUT MP_01 IN MP_02 IN 0 LT3061
.tran .1 startup
.lib LT3061.sub
.backanno
.end
